US06451816B1
N-[2-(1-Diphenylmethylpiperidin-4-yl)-ethyl]-3-(pyridin-3-yl)-acrylamide (Substance 95)
Batch size: 2.3 g (15.5 mmol) 3-(3-pyridyl)-acrylic acid, 2.7 g (21.3 mmol) oxalyl chloride and 4.1 g (13.9 mmol) 2-(1-diphenylmethylpiperidine-4-yl)-ethylamine in 60 ml abs. dichlormethane.

reactant | 3-(3-pyridyl)-acrylic acid | 15.5 mmol, 2.3 g | N1=CC(=CC=C1)C=CC(=O)O | C8H7NO2
reactant | oxalyl chloride | 21.3 mmol, 2.7 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-(1-diphenylmethylpiperidine-4-yl)-ethylamine | 13.9 mmol, 4.1 g | C1(=CC=CC=C1)C(N1CCC(CC1)CCN)C1=CC=CC=C1 | C20H26N2
solvent | dichlormethane | ClCCl | CH2Cl2
product | N-[2-(1-Diphenylmethylpiperidin-4-yl)-ethyl]-3-(pyridin-3-yl)-acrylamide | C1(=CC=CC=C1)C(N1CCC(CC1)CCNC(C=CC=1C=NC=CC1)=O)C1=CC=CC=C1 | C28H31N3O
